* AD8228 SPICE Macro-model   
* Description: Amplifier 
* Generic Desc: 36V Bipolar InAmp Low Gain Drift G10/100
* Developed by: PRB IAP ADI
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (10/2010) 
* Copyright 2012 by Analog Devices.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*   Temperature effects
*   PSRR
*
* Parameters modeled include:
*
* END Notes
*
* Node assignments
*                 inverting input
*                 |   RG
*                 |   |    RG
*                 |   |    |  non_inverting input
*                 |   |    |    |    negative supply
*                 |   |    |    |    |    ref
*                 |   |    |    |    |    |   output
*                 |   |    |    |    |    |    |     positive supply
*                 |   |    |    |    |    |    |     |
.SUBCKT AD8228  IN-  RG-  RG+  IN+  -Vs   REF  VOUT  +Vs         
** INPUT STAGER1 sub_out sub_neg 10E3
R1 sub_out sub_neg 10E3
R2 sub_neg Inverting_Out 10E3
R3 sub_pos noninverting_out 10001
R4 REF sub_pos 10k
R5 N009 N003 24700
R6 RG+ N011 24724
D3 N003 P001 D
D4 P002 N003 D
V3 P002 VNEGx 0.94
V4 VPOSx P001 .71
D5 N011 P003 D
D6 P004 N011 D
V5 P004 VNEGx 0.94
V6 VPOSx P003 .71
D7 N005 P005 D
D8 P006 N005 D
V7 P006 VNEGx 2.0
V8 VPOSx P005 1.7
D9 N017 P007 D
D10 P008 N017 D
V9 P008 VNEGx 2.0
V10 VPOSx P007 1.7
D11 N010 P009 D
D12 P010 N010 D
V11 P010 N018 1.7
V12 N008 P009 1.7
D13 REF P011 D
D14 P012 REF D
V13 P012 VNEGx .3
V14 VPOSx P011 .3
D15 sub_pos P013 D
D16 P014 sub_pos D
V15 P014 VNEGx 0.9
V16 VPOSx P013 0.9
E4 Inverting_Out 0 N003 0 1
E5 noninverting_out 0 N011 0 1
V1 VBIAS +Vs 20
I1 VBIAS Pos_Fdbk 20E-6
I2 VBIAS Inv_Fdbk 20E-6
C1 N003 Inv_Fdbk 9.235e-12
C2 N011 Pos_Fdbk 9.2e-12
E8 N002 0 N005 0 1
E9 N014 0 N017 0 1
VOSI_Neg N004 IN- 25E-6
VOSI_Pos IN+ N015 24E-6
VOSO VOUT N010 300E-6
C3 N009 0 .200e-12
C4 RG+ 0 .135e-12
I23 IN- 0 1.4E-9
I24 IN+ 0 0.8E-9
G1 0 IN+ N019 N020 .0025e-9
R13 IN+ N019 10e9
R14 N019 IN- 10e9
R15 +Vs N020 10e9
R16 N020 -Vs 10e9
G2 0 IN- N019 N020 .0025e-9
E10 VPOSx 0 +Vs 0 1
I3 +Vs -Vs 900E-6
G3 +Vs -Vs +Vs -Vs 1e-6
E11 VNEGx 0 -Vs 0 1

H3 N006 N004 V24 4.5
V24 N001 0 0
R19 N001 0 .0166
H4 VX sub_out V25 64
V25 N007 0 0
R20 N007 0 .0166
H5 N016 N015 V26 4.5
V26 N012 0 0
R21 N012 0 .0166
G4 0 N005 N006 N005 1
G5 0 N017 N016 N017 1
G6 0 N003 VBIAS Inv_Fdbk 1
G7 0 N011 VBIAS Pos_Fdbk 1
G8 0 sub_out sub_pos sub_neg 1
R10 N005 0 10e9
R7 N003 0 10E9
R11 N017 0 10E9
R8 N011 0 10E9
R9 sub_out 0 10E9
Q1 Pos_Fdbk N014 RG+ 0 NPN
Q2 Inv_Fdbk N002 N009 0 NPN
G9 0 N013 VY N010 1
G10 0 N010 N013 0 .002
R12 N013 0 1e10
R17 N010 0 500
C5 N013 0 1.4e-7
C6 N010 0 700e-12
C8 VY 0 1e-9
G11 0 VY VALUE = { LIMIT( 1*V(VX,VY), .002, -.002) }
R22 VY 0 1e9
R18 VBIAS Inv_Fdbk 1e9
R23 Pos_Fdbk VBIAS 1e9
D1 sub_out P015 D
V2 VPOSx P015 1.7
D2 P016 sub_out D
V17 P016 VNEGx 1.7
R24 N009 RG+ 5500
R25 N009 RG- 550


H1 VPOSx N008 POLY(1) VOSO 0 0 8000
H2 N018 VNEGx POLY(1) VOSO 0 0 8000

* MODELS USED
*
.model D D
.model NPN NPN
.ENDS AD8228

