* AD8235 SPICE Macro-model
* Description: Amplifier
* Generic Desc: CMOS,  InAmp, 40 microA, WLCSP
* Developed by:
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (12/2009)
* Copyright 2009, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this
* model indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes: VSY=5V, T=25°C
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node Assignments
*                          -input
*                          |  rg1
*                          |  |   rg2
*                          |  |   |   +input
*                          |  |   |   |  shutdwn Neg Supply
*                          |  |   |   |    |    |   ref 
*                          |  |   |   |    |    |   |    out
*                          |  |   |   |    |    |   |    |    Pos Supply
*                          |  |   |   |    |    |   |    |     |
.SUBCKT AD8235          Vin- RG- RG+ Vin+ SDN VNEG REF VOUT  VPOS
*Amplifiers
X_U1 Vin- RG- 1 2 9 AMPA
X_U2 Vin+ 7 1 2 VOUT AMPB
*Gain Error for RG resistor
R5 7 RG+ 6
*Adjustable Supply Current for Low Supply Voltage
I3 1 2 6.5E-6
G1 1 2 2 1 1.5E-6
* Shutdown Switches
S1 1 VPOS SDN VNEG SW
S2 2 VNEG SDN VNEG SW
*Resistor Network 
R1 REF RG- 209.8K
R2 RG- 9 52.5K
R3 9 7 52.5K
R4 7 VOUT 209.85K
*Switch Model
.MODEL	SW  VSWITCH(VON=1.3 VOFF=0.5 RON=1 ROFF=1E9)
.ENDS AD8235
*$
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT AMPA            1   2   99  50  45
*
* INPUT STAGE
*
M1   4  7  8  8 PIX L=2E-6 W=9.070E-04
M2   6  2  8  8 PIX L=2E-6 W=9.070E-04
Cinp 1 50 4.2pF
Cinn 2 50 4.2pF
Cdiff 1 2 3pF
RD1  4 50  5.333E+04
RD2  6 50  5.333E+04
C1   4  6  7.650E-12
I1  99  8  7.500E-06
V1   9  8 +0.025E-00
D1   9 99 DX
EOS  7  1 POLY(4) (73,98) (22,98) (81,98) (83,98) 0 1 1 1 1
IOS  1  2 -5.0E-12
*
* CMRR=95dB, POLE AT 3500 Hz
*
E1  72 98 POLY(2) (1,98) (2,98) 0 1.289E-02  1.289E-02
R10 72 73 4.613E+01
R20 73 98 3.183E-02
C10 72 73 1.000E-06
*
* PSRR=100dB, POLE AT 100 Hz
*
EPSY 21 98 POLY(1) (99,50) -0.181E-00 -0.03E-00
RPS1 21 22 1.274E+04
RPS2 22 98 2.989E-00
CPS1 21 22 0.20E-07
*
* VOLTAGE NOISE REFERENCE OF 45nV/rt(Hz) 
*
VN1 80 98 0
RN1 80 98 17.500E-3
HN  81 98 VN1 4.62E+1
RN2 81 98 1
*
* FLICKER NOISE CORNER = 20000 Hz
*
DFN 82 98 DNOISE
VFN 82 98 DC 0.6531
HFN 83 98 POLY(1) VFN 1.00E-03 1.00E+00
RFN 83 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 0.5 0.5
GSY  99 50 POLY(1) (99,50) +0.580E-06 0.2710E-06
EVP  97 98 (99,50) 0.5
EVN  51 98 (50,99) 0.5
*
* GAIN STAGE
*
G1 98 30 (4,6) 4.474E-04
R1 30 98 1.00E+06
CF 30 31 1.55E-08
RZ 455 31 1.2280E-03
EZ 455 98  (451 98) 1
V3 32 30 0.279E+00
V4 30 33 0.362E-00
D3 32 97 DX
D4 51 33 DX
*
* OUTPUT STAGE
*
M5  451 46 99 99 POX L=1E-6 W=3.940E-04
M6  451 47 50 50 NOX L=1E-6 W=4.598E-04
Lout 451 45 10pH
EG1 99 46 POLY(1) (98,30) 3.598E-01 1
EG2 47 50 POLY(1) (30,98) 3.574E-01 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=3.00E-05,VTO=-0.328,LAMBDA=0.015,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=3.00E-05,VTO=+0.328,LAMBDA=0.015,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=5.00E-05,VTO=-5.00E-01,LAMBDA=0.01)
.MODEL DX D(IS=1E-14,RS=0.1)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=12.400E-11)
*
*
.ENDS AMPA
*
*$
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT AMPB            1   2   99  50  45
*
* INPUT STAGE
*
M1   4  7  8  8 PIX L=2E-6 W=9.070E-04
M2   6  2  8  8 PIX L=2E-6 W=9.070E-04
Cinp 1 50 4.2pF
Cinn 2 50 4.2pF
Cdiff 1 2 3pF
RD1  4 50  5.333E+04
RD2  6 50  5.333E+04
C1   4  6  7.650E-12
I1  99  8  7.500E-06
V1   9  8 +0.025E-00
D1   9 99 DX
EOS  7  1 POLY(4) (73,98) (22,98) (81,98) (83,98) 0.926m 1 1 1 1
IOS  1  2 -10E-12
*
* CMRR=95dB, POLE AT 3500 Hz
*
E1  72 98 POLY(2) (1,98) (2,98) 0 1.289E-02  1.289E-02
R10 72 73 4.613E+01
R20 73 98 3.183E-02
C10 72 73 1.000E-06
*
* PSRR=100dB, POLE AT 100 Hz
*
EPSY 21 98 POLY(1) (99,50) -0.181E-00 0.03E-00
RPS1 21 22 2.274E+04
RPS2 22 98 1.989E-00
CPS1 21 22 0.20E-07
*
* VOLTAGE NOISE REFERENCE OF 45nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 17.500E-3
HN  81 98 VN1 4.62E+1
RN2 81 98 1
*
* FLICKER NOISE CORNER = 20000 Hz
*
DFN 82 98 DNOISE
VFN 82 98 DC 0.6531
HFN 83 98 POLY(1) VFN 1.00E-03 1.00E+00
RFN 83 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 0.5 0.5
GSY  99 50 POLY(1) (99,50) +0.580E-06 0.2710E-06
EVP  97 98 (99,50) 0.5
EVN  51 98 (50,99) 0.5
*
* GAIN STAGE
*
G1 98 30 (4,6) 4.474E-04
R1 30 98 1.00E+06
CF 30 31 1.55E-08
RZ 455 31 1.2280E-03
EZ 455 98  (451 98) 1
V3 32 30 0.279E+00
V4 30 33 0.362E-00
D3 32 97 DX
D4 51 33 DX
*
* OUTPUT STAGE
*
M5  451 46 99 99 POX L=1E-6 W=3.940E-04
M6  451 47 50 50 NOX L=1E-6 W=4.598E-04
Lout 451 45 10pH
EG1 99 46 POLY(1) (98,30) 3.598E-01 1
EG2 47 50 POLY(1) (30,98) 3.574E-01 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=3.00E-05,VTO=-0.328,LAMBDA=0.015,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=3.00E-05,VTO=+0.328,LAMBDA=0.015,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=5.00E-05,VTO=-5.00E-01,LAMBDA=0.01)
.MODEL DX D(IS=1E-14,RS=0.1)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=12.400E-11)
*
*
.ENDS AMPB
*
*$





